US08445510B2
1-[4-Bromo-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-methylpropan-2-ol
To a mixture of 4-bromo-3-trifluoromethyl-1H-pyrazole (200.0 mg, 0.9304 mmol), K2CO3 (200.0 mg, 1.447 mmol) and DMF (3 mL, 40 mmol) was added 2,2-dimethyloxirane (0.5 mL, 6 mmol), and the mixture was heated to 90° C. for 2 h in a sealed tube. The material was transferred to a separation funnel, extracting with EtOAc and washing with water (3×). The organic layer was loaded onto silica gel for column chromatography, eluting with 10-30% EtOAc/heptane. The fractions containing the 3-trifluoromethyl product were concentrated in vacuo to afford the title compound as a brown oil. 1H NMR (400 MHz, CD3OD): δ=1.17 (s, 6H), 4.13 (s, 2H), 7.87 (s, 1H). MS (ES+): m/z=287.00/289.00 (100/100) [MH+]. HPLC: tR=1.35 min (polar—3 min, UPLC-ACQUITY).

reactant | 4-bromo-3-trifluoromethyl-1H-pyrazole | 0.9304 mmol, 200.0 mg | BrC=1C(=NNC1)C(F)(F)F | C4H2BrF3N2
reactant | K2CO3 | 1.447 mmol, 200.0 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | DMF | 40 mmol, 3 mL | CN(C)C=O | C3H7NO
reactant | 2,2-dimethyloxirane | 6 mmol, 0.5 mL | CC1(OC1)C | C4H8O
product | 1-[4-Bromo-3-(trifluoromethyl)-1H-pyrazol-1-yl]-2-methylpropan-2-ol | BrC=1C(=NN(C1)CC(C)(O)C)C(F)(F)F | C8H10BrF3N2O
